Ngspice T1

.options savecurrents

V1  v(1)  v(6)   5.17885996884
I1  GND  v(3)  1.04908336809m
V0  v(6)  v(4)  0
R1  v(8)  v(1)  1.02362892933K
R2  v(2)  v(8)  2.08640382129K
R3  v(8)  v(7)  3.09996108706K
R4  v(7)  v(6)  4.08183334334K
R5  v(3)  v(7)  3.0416957579K
R6  v(5)  v(4)  2.04156679366K
R7  GND  v(5)  1.04156790057K
G1  v(3)  v(2)  v(8)  v(7)  7.29571922963m
H1  v(7)  GND  V0  8.16840649221K
.model P2model NPN(Bf=200, CJE=12pF, CJC=2pF)
.control
op
echo "op_TAB"
print all
echo "op_END"
quit
.endc

.end

